US08486962B2
To a solution of 3-acetyl pyridine (2.71 ml, 24.74 mmol) in acetic acid (7.5 ml) was added 33% hydrobromic acid in acetic acid (7.5 ml) and then pyridinium tribromide (8.70 g, 27.21 mmol). The reaction mixture was stirred at room temperature for 12 hr to give a solid. The solid was filtered, washed with acetic acid and hexane and then dried under vacuum to give 2-bromo-1-pyridin-3-yl-ethanone 3.61 g (52%).

reactant | 3-acetyl pyridine | 24.74 mmol, 2.71 ml | C(C)(=O)C=1C=NC=CC1 | C7H7NO
reactant | hydrobromic acid | Br | BrH
reactant | pyridinium tribromide | 27.21 mmol, 8.70 g | [Br-].[Br-].[Br-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
solvent | acetic acid | 7.5 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 7.5 ml | C(C)(=O)O | C2H4O2
product | 2-bromo-1-pyridin-3-yl-ethanone | 3.61 g, 52% | BrCC(=O)C=1C=NC=CC1 | C7H6BrNO
